Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ right-handed man with PMH significant
for a heart murmur for which he takes ASA 81mg who was
transferred from ___ for right basal ganglia IPH.

As per the pt's wife, the pt was in his usual state of health
when he awoke this morning, had breakfast and then went to the
bathroom to get cleaned up and start his day.  When he returned
from the bathroom he was slipping as he walked toward the bed. 
His wife initially thought he was goofing off, so she told him 
to
go get dressed, but when he went over to the dresser he 
continued
to have difficulty standing and was slipping almost pulling the
dresser down on himself.  As he turned to try to walk back
towards the bed, he told his wife that his left-side felt funny
and then he became unable to walk and started crawling towards
the bed.  His wife called ___ and she noticed that he had a left
facial droop and started to slur his words.

He was taken by EMS to ___ where a ___ showed a right BG
IPH and he was transferred to ___ for further evaluation.  At
the OSH, BP 183/87. 

OSH Labs: Chem 142/3.3 ___ Glc 140 Ca 9.5
CBC: 14>13.9/41.7<246
Trop <0.01

He was transferred to ___ for further evaluation. Upon arrival
a CODE STROKE was called. NIHSS 8* and he was taken for CT/CTA
H/N.  BP on arrival 172/88.
 
As per wife, no reported headache, loss of vision, blurred
vision, diplopia, dysphagia, lightheadedness, vertigo, tinnitus
or hearing difficulty. No bowel or bladder incontinence or
retention. 
 
As per wife, no recent fever or chills.  No night sweats or
recent weight loss or gain. Denies cough, shortness of breath. 
Denies chest pain or tightness, palpitations.  Denies nausea,
vomiting, diarrhea, constipation or abdominal pain.  No recent
change in bowel or bladder habits.  No dysuria.  Denies
arthralgias or myalgias. Denies rash.

 
Past Medical History:
heart murmur (unspecified valvular disease)
 
Social History:
___
Family History:
Mother: DM. Maternal side: Strokes with old age

 
Physical Exam:
ADMISSION EXAM:

Vitals: T:98.6  P: 53 R: 14  BP: 172/88 SaO2:99% RA
General: Awake, right-gaze preference.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, hospital and date.
+Dysarthric speech. Right gaze preference with left-sided
neglect. +Inattention requiring repetition and reorientation.

-Cranial Nerves:
PERRL 3 to 2mm and brisk. EOM full horizontal gaze without
nystagmus. Normal saccades. +LNLFF at rest and left droop with
activation. Tongue midline
-Motor: Normal bulk, tone throughout. 
  Delt Bic Tri IP Quad Ham  TA ___  ___ 
L  5-  4+   ___-   5-   4+   5-     4+    
R  5   5    ___    5    5    5      5       

-Sensory: No deficits to light touch throughout. -DTRs:
  ___ Pat +crossed adductors b/l
L  2  2    3    
R  2  2    3    
L toe mute, R toe up
-Coordination: No dysmetria to FNF on right, no gross ataxia on 
L
FNF, but hard to assess due to LUE weakness

-Gait: Deferred 

========================

DISCHARGE EXAM:

General: Awake, NAD, no gaze preference.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Normal work of breathing
Cardiac: warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented. Language fluent. Dysarthria
resolved.

-Cranial Nerves:
PERRL 3 to 2mm and brisk. EOM full horizontal gaze without
nystagmus. Normal saccades. +LNLFF at rest, symmetric 
activation. Tongue midline

-Motor: Normal bulk, tone throughout. Pronator drift LUE
  Delt Tri WrExtIP IP Quad Ham  TA 
L  5    5-   5      5-  5-  5   5  
R  5    5    5      ___    5       

-Sensory: decreased sensation on L compared to R for pinprick,
temp, proprioception and vibration
 
-DTRs:
L toe mute, R toe up

-Coordination: No dysmetria to FNF on right, L side dysmetria 
improving

-Gait: wide based
 
Pertinent Results:
___ 07:00AM BLOOD WBC-6.4 RBC-4.74 Hgb-12.5* Hct-39.6* 
MCV-84 MCH-26.4 MCHC-31.6* RDW-14.1 RDWSD-43.4 Plt ___
___ 07:00AM BLOOD Glucose-100 UreaN-12 Creat-1.0 Na-144 
K-4.3 Cl-104 HCO3-26 AnGap-14
___ 05:05PM BLOOD ALT-17 AST-23 LD(LDH)-214 CK(CPK)-178 
AlkPhos-95 TotBili-0.2
___ 12:29AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.7
___ 05:05PM BLOOD Triglyc-73 HDL-64 CHOL/HD-4.5 
LDLcalc-211*
___ 12:38PM BLOOD %HbA1c-5.7 eAG-117
___ 05:05PM BLOOD TSH-0.93

===============
DIAGNOSTIC STUDIES:

CTA ___ ___:
1. Right basal ganglia hemorrhage without mass effect, midline 
shift or 
significant surrounding edema. 
2. Mild atherosclerotic disease both carotid bifurcations 
otherwise no 
significant abnormalities on CT angiography of the ___ and 
neck. 
  

CT ___ ___:
Grossly unchanged 3.5 x 2.3 cm right basal ganglia 
intraparenchymal hematoma 
with surrounding edema.  No evidence of new intracranial 
hemorrhage. 

MR ___ w/wo contrast ___:
Right basal ganglia hemorrhage is again noted.  No other 
hemorrhage. 
No acute infarct.  No abnormal enhancement post-contrast. 
Imaging follow-up after resolution advised to exclude an 
underlying lesion, if  clinically indicated.
(Not indicated given etiology is hypertensive bleed)
 
Brief Hospital Course:
Mr. ___ is a ___ right-handed man with PMH significant for 
a heart murmur (unspecified valvular disease) who was 
transferred from ___ for right basal ganglia IPH. Etiology 
likely hypertensive.

Patient was briefly on nicardipine drip ~5 hours. SBPs was kept 
within goal 150mg with PRN antihypertensives. Patient started on 
lisinopril with blood pressures sustained systolics 100-150mmHg.

MRI was obtained 24 hours after initial presentation and showed 
stable bleeding. No additional intracranial anomalies, signs of 
vessel abnormalities, or concerns for cerebral amyloid.

___ evaluated patient and recommended ___ 
rehabilitation. Patient passed bedside dysphagia screen and 
tolerated regular diet.

==================================
 AHA/ASA Core Measures for Intracerebral Hemorrhage 
 1. Dysphagia screening before any PO intake? (x) Yes - () No 
 2. DVT Prophylaxis administered? (x) Yes - () No 
 3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) ___ - () unable to participate] 
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
 5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No 
====================================

Transitional Issues:
- Please titrate anti-hypertensives
- Follow up with PCP regarding indication for aspirin. Should be 
held unless there is an indication for taking it given 
hemorrhagic stroke
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 10 mg PO DAILY  
2. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until minimum 1 month after stroke. Should 
be restarted only if physician says it is necessary for treating 
an existing condition.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute hemorrhagic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 
 
 You were hospitalized due to symptoms of weakness resulting 
from an ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 high blood pressure

 We are changing your medications as follows:  
   Please stop taking aspirin unless otherwise instructed by 
your physician. 
   Please start taking lisinopril for high blood pressure.

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team 
 
Followup Instructions:
___